US05389292
a) 3-[4-(trans-4-Propylcyclohexyl)-phenyl]-propanoic acid
A solution of 12.6 g of 3-[4-(trans-4-propyl-cyclohexyl)-phenyl]-propenoic acid (obtained by condensation of 4-(trans-4-propylcyclohexyl)-benzaldehyde with malonic acid in pyridine) in 120 ml of ethyl acetate is hydrogenated at room temperature and atmospheric pressure, using 4 g of Pd/C (5% Pd) as catalyst. The catalyst is filtered off, and the filtrate is evaporated. Colourless crystals are obtained.

reactant | 3-[4-(trans-4-propyl-cyclohexyl)-phenyl]-propenoic acid | 12.6 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C=CC(=O)O | C18H24O2
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 4 g | [Pd] | Pd
product | 3-[4-(trans-4-Propylcyclohexyl)-phenyl]-propanoic acid | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CCC(=O)O | C18H26O2
